US07205306B2
3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-(1-ethylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-(1-ethylpropyl)-2(1H)-pyrazinone and 5-bromo-7-chloroindoline as the starting materials. mp 156–157° C.; 1H NMR (300 MHz, CDCl3): δ 7.25 (d, J=1.8 Hz, 1 H), 7.19 (d, J=2.9 Hz, 1 H), 6.71 (s, 1 H), 4.75–4.69 (m, 1 H), 4.27 (t, J=7.9 Hz, 2 H), 3.07 (t, J=8.1 Hz, 2 H), 1.78–1.51 (m, 4 H), 0.81 (t, J=7.3 Hz, 6 H); HRMS (ESI) calcd for C17H19N3OBrCl2 (M+H)+: 430.0089; Found m/z 430.0106.

reactant | 3,5-dichloro-1-(1-ethylpropyl)-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)CC)=O | C9H12Cl2N2O
reactant | 5-bromo-7-chloroindoline | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
product | 3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1C=C2CCN(C2=C(C1)Cl)C=1C(N(C=C(N1)Cl)C(CC)CC)=O | C17H18BrCl2N3O
